* c:\fossee\esim\library\subcircuitlibrary\vinit_d_ff\vinit_d_ff.cir

xsc5 net-_sc11-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc11-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc11 net-_sc11-pad1_ net-_sc10-pad2_ net-_sc1-pad3_ net-_sc11-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc7 net-_sc11-pad1_ net-_sc10-pad2_ net-_sc7-pad3_ net-_sc7-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc8 net-_sc7-pad3_ net-_sc1-pad2_ net-_sc10-pad3_ net-_sc10-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc13 net-_sc13-pad1_ net-_sc11-pad1_ net-_sc1-pad3_ net-_sc13-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc19 net-_sc13-pad1_ net-_sc14-pad1_ net-_sc1-pad3_ net-_sc13-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc15 net-_sc13-pad1_ net-_sc14-pad1_ net-_sc15-pad3_ net-_sc15-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc16 net-_sc15-pad3_ net-_sc11-pad1_ net-_sc10-pad3_ net-_sc10-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc6 net-_sc12-pad1_ net-_sc10-pad2_ net-_sc1-pad3_ net-_sc12-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc12 net-_sc12-pad1_ net-_sc1-pad1_ net-_sc1-pad3_ net-_sc12-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc9 net-_sc12-pad1_ net-_sc1-pad1_ net-_sc10-pad1_ net-_sc10-pad1_ sky130_fd_pr__nfet_01v8_lvt 
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc10-pad3_ net-_sc10-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc14 net-_sc14-pad1_ net-_sc12-pad1_ net-_sc1-pad3_ net-_sc14-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc20 net-_sc14-pad1_ net-_sc13-pad1_ net-_sc1-pad3_ net-_sc14-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc17 net-_sc14-pad1_ net-_sc13-pad1_ net-_sc17-pad3_ net-_sc17-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc18 net-_sc17-pad3_ net-_sc12-pad1_ net-_sc10-pad3_ net-_sc10-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc4 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc2 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc3 net-_sc2-pad3_ net-_sc1-pad2_ net-_sc10-pad3_ net-_sc10-pad3_ sky130_fd_pr__nfet_01v8_lvt 
* u1  net-_sc1-pad3_ net-_u1-pad2_ net-_u1-pad3_ net-_sc10-pad3_ net-_u1-pad5_ net-_u1-pad6_ port
* u4  net-_sc13-pad1_ net-_u1-pad6_ adc_bridge_1
* u5  net-_u1-pad2_ net-_u1-pad3_ net-_sc1-pad2_ net-_sc10-pad2_ dac_bridge_2
* u3  net-_sc14-pad1_ net-_u1-pad5_ adc_bridge_1
a1 [net-_sc13-pad1_ ] [net-_u1-pad6_ ] u4
a2 [net-_u1-pad2_ net-_u1-pad3_ ] [net-_sc1-pad2_ net-_sc10-pad2_ ] u5
a3 [net-_sc14-pad1_ ] [net-_u1-pad5_ ] u3
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=2.2 in_high=2.202 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=2.20304 in_high=2.20305 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.00001e-00 0.01e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
