* c:\fossee\esim\library\subcircuitlibrary\vinit_xor\vinit_xor.cir

xsc3 net-_sc13-pad1_ net-_sc1-pad2_ net-_sc3-pad3_ net-_sc3-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc5 net-_sc5-pad1_ net-_sc10-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc7 net-_sc13-pad1_ net-_sc10-pad1_ net-_sc7-pad3_ net-_sc7-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc4 net-_sc3-pad3_ net-_sc11-pad2_ net-_sc10-pad3_ net-_sc10-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc8 net-_sc7-pad3_ net-_sc11-pad1_ net-_sc10-pad3_ net-_sc10-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc2 net-_sc13-pad1_ net-_sc11-pad1_ net-_sc1-pad1_ net-_sc1-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc6 net-_sc13-pad1_ net-_sc11-pad2_ net-_sc5-pad1_ net-_sc5-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc12 net-_sc11-pad1_ net-_sc11-pad2_ net-_sc10-pad3_ net-_sc10-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc11 net-_sc11-pad1_ net-_sc11-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc10 net-_sc10-pad1_ net-_sc1-pad2_ net-_sc10-pad3_ net-_sc10-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc9 net-_sc10-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc13 net-_sc13-pad1_ net-_sc13-pad2_ net-_sc13-pad1_ sky130_fd_pr__res_generic_pd l=1 w=1
xsc14 net-_sc13-pad2_ net-_sc10-pad3_ sky130_fd_pr__cap_mim_m3_1 l=100 w=100
* u1  net-_sc10-pad3_ net-_u1-pad2_ net-_u1-pad3_ net-_sc1-pad3_ net-_u1-pad5_ port
* u3  net-_sc13-pad2_ net-_u1-pad5_ adc_bridge_1
* u2  net-_u1-pad2_ net-_u1-pad3_ net-_sc1-pad2_ net-_sc11-pad2_ dac_bridge_2
a1 [net-_sc13-pad2_ ] [net-_u1-pad5_ ] u3
a2 [net-_u1-pad2_ net-_u1-pad3_ ] [net-_sc1-pad2_ net-_sc11-pad2_ ] u2
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.001e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
