* c:\users\vinit\desktop\summation-of-counter\vinit_xor\vinit_xor.cir

.include vinit_XOR.sub
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
v1  a gnd pulse(0 5 1 1n 1n 1 2)
v2  b gnd pulse(0 5 2 1n 1n 2 4)
* u6  y plot_v1
* u2  a plot_v1
* u3  b plot_v1
x1 gnd net-_u4-pad3_ net-_u4-pad4_ net-_x1-pad4_ net-_u1-pad1_ vinit_XOR
v3 net-_x1-pad4_ gnd  dc 5
* s c m o d e
* u1  net-_u1-pad1_ y dac_bridge_1
* u4  a b net-_u4-pad3_ net-_u4-pad4_ adc_bridge_2
a1 [net-_u1-pad1_ ] [y ] u1
a2 [a b ] [net-_u4-pad3_ net-_u4-pad4_ ] u4
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u1 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.001e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(y)
plot v(a)
plot v(b)
.endc
.end
